US06924278B2
To a stirred mixture of 4-amino-3,3-dimethylmorpholine dihydrochloride (122 mg) in dichloromethane (5 ml) was added triethylamine (61 mg) at ice bath temperature. A solution of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethyl benzyl)-4-(2-formylethyl)piperazine (150 mg) in dichloromethane (2 ml) was added and the resulting mixture was stirred at room temperature. After 30 minutes, the reaction mixture was concentrated under reduced pressure. The resulting residue was chromatographed on a silica gel using a mixture of hexane and ethyl acetate as eluent and the desired product was treated with 4N hydrogen chloride in ethyl acetate to give (2R)-1-[3,5-bis(trifluoromethyl) benzoyl]-2-(3,4-dimethylbenzyl)-4-[3-(3,3-dimethylmorpholino-imino)propyl]piperazine dihydrochloride (122 mg).

reactant | 4-amino-3,3-dimethylmorpholine dihydrochloride | 122 mg | Cl.Cl.NN1C(COCC1)(C)C
reactant | triethylamine | 61 mg | C(C)N(CC)CC | C6H15N
reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethyl benzyl)-4-(2-formylethyl)piperazine | 150 mg | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CCC=O)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F | C25H26F6N2O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | (2R)-1-[3,5-bis(trifluoromethyl) benzoyl]-2-(3,4-dimethylbenzyl)-4-[3-(3,3-dimethylmorpholino-imino)propyl]piperazine dihydrochloride | 122 mg | Cl.Cl.FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CCC=NN2C(COCC2)(C)C)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C31H38F6N4O2.2ClH/c1-21-6-7-23(14-22(21)2)15-27-19-39(9-5-8-38-41-12-13-43-20-29(41,3)4)10-11-40(27)28(42)24-16-25(30(32,33)34)18-26(17-24)31(35,36)37;;/h6-8,14,16-18,27H,5,9-13,15,19-20H2,1-4H3;2*1H/t27-;;/m1../s1
